US08389523B2
5.9 g (39 mmol) of 2,3-dihydrobenzo[b]1,4-dioxin-6-amine and 5.0 g (35 mmol) of 2-fluoronitrobenzene were dissolved in N-methylpyrrolidone (70 mL) and 20.8 g (150 mmol) of potassium carbonate was added thereto. The solvent was heated with stirring for 10 hours at 120° C. The reaction mixture was poured into water, and extracted with ethyl acetate. The extracted organic layer was washed with water, 10% hydrochloric acid, water, and a saturated aqueous solution of sodium chloride in this order, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The residue thus obtained was purified by silica gel chromatography (developing solvent: ethyl acetate:hexane=1:4), to obtain 6.4 g (yield: 66%) of N-(2-nitrophenyl)-2,3-dihydrobenzo[b][1,4]dioxin-6-amine as a red liquid.

reactant | 2,3-dihydrobenzo[b]1,4-dioxin-6-amine | 39 mmol, 5.9 g | O1C2=C(OCC1)C=C(C=C2)N | C8H9NO2
reactant | 2-fluoronitrobenzene | 35 mmol, 5.0 g | FC1=C(C=CC=C1)[N+](=O)[O-] | C6H4FNO2
reactant | potassium carbonate | 150 mmol, 20.8 g | C([O-])([O-])=O.[K+].[K+]
reactant | water | O | H2O
solvent | N-methylpyrrolidone | 70 mL | CN1C(CCC1)=O | C5H9NO
product | N-(2-nitrophenyl)-2,3-dihydrobenzo[b][1,4]dioxin-6-amine | 6.4 g, yield: 66% | [N+](=O)([O-])C1=C(C=CC=C1)NC1=CC2=C(OCCO2)C=C1 | C14H12N2O4
